### ISSUE TITLE
Changing mathlib version and a couple questions

### ISSUE THREAD

**Issue by AG161** [semorrison/lean-training-data#1]
Is there an easy way to change the version of mathlib4 in lean-training-data to a fork or different commit for mathlib? Right now the library automatically installs the particular commit of mathlib specified in the lake-manifest. I made a fork of lean-training-data where I adjust lake-manifest.json and lakefile.lean to try to get around this:

https://github.com/AG161/lean-training-data/blob/master/lake-manifest.json
https://github.com/AG161/lean-training-data/blob/master/lakefile.lean

I matched the dependencies in lake-manifest to the those of the commit of mathlib4 that I forked, but I get the following error:

```
lake exe training_data Mathlib.Logic.Hydra
info: [87/167] Building Std.Tactic.Simpa
info: [113/167] Building Std.Tactic.SimpTrace
error: > LEAN_PATH=./lake-packages/std/build/lib:./lake-packages/Qq/build/lib:./lake-packages/aesop/build/lib:./lake-packages/Cli/build/lib:./lake-packages/proofwidgets/build/lib:./lake-packages/mathlib/build/lib:./build/lib DYLD_LIBRARY_PATH=./lake-packages/std/build/lib /Users/agittis/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lean -Dlinter.missingDocs=true -DwarningAsError=true ./lake-packages/std/././Std/Tactic/SimpTrace.lean -R ./lake-packages/std/./. -o ./lake-packages/std/build/lib/Std/Tactic/SimpTrace.olean -i ./lake-packages/std/build/lib/Std/Tactic/SimpTrace.ilean -c ./lake-packages/std/build/ir/Std/Tactic/SimpTrace.c
error: stdout:
./lake-packages/std/././Std/Tactic/SimpTrace.lean:51:6: error: function expected at
  Origin.decl declName
term has type
  Origin
./lake-packages/std/././Std/Tactic/SimpTrace.lean:72:12: error: failed to synthesize instance
  HAppend (Array (TSyntax `Lean.Parser.Tactic.simpStar)) (Array (TSyntax `Lean.Parser.Tactic.simpLemma))
    (Array (TSyntax `Lean.Parser.Tactic.simpStar))
error: external command `/Users/agittis/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lean` exited with code 1
error: > LEAN_PATH=./lake-packages/std/build/lib:./lake-packages/Qq/build/lib:./lake-packages/aesop/build/lib:./lake-packages/Cli/build/lib:./lake-packages/proofwidgets/build/lib:./lake-packages/mathlib/build/lib:./build/lib DYLD_LIBRARY_PATH=./lake-packages/std/build/lib /Users/agittis/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lean -Dlinter.missingDocs=true -DwarningAsError=true ./lake-packages/std/././Std/Tactic/Simpa.lean -R ./lake-packages/std/./. -o ./lake-packages/std/build/lib/Std/Tactic/Simpa.olean -i ./lake-packages/std/build/lib/Std/Tactic/Simpa.ilean -c ./lake-packages/std/build/ir/Std/Tactic/Simpa.c
error: stdout:
./lake-packages/std/././Std/Tactic/Simpa.lean:74:6: error: function expected at
  Origin.decl declName
term has type
  Origin
./lake-packages/std/././Std/Tactic/Simpa.lean:103:12: error: failed to synthesize instance
  HAppend (Array (TSyntax `Lean.Parser.Tactic.simpStar)) (Array (TSyntax `Lean.Parser.Tactic.simpLemma))
    (Array (TSyntax `Lean.Parser.Tactic.simpStar))
error: external command `/Users/agittis/.elan/toolchains/leanprover--lean4---v4.2.0-rc1/bin/lean` exited with code 1
agittis@Andreass-MacBook-Pro lean-training-data % 
```

Is there a straightforward way to adjust the mathlib version? This is the really the main issue I'd like to figure out. I also noticed a couple other things which I have listed below, but they are not important for what I'd like to use the tool for, so feel free to ignore.

1) When I run `lake exe goal_comments Mathlib.Logic.Hydra` I get the following output for `theorem _root_.Acc.cutExpand`:

```
/-- A singleton `{a}` is accessible under `CutExpand r` if `a` is accessible under `r`,
  assuming `r` is irreflexive. -/
theorem _root_.Acc.cutExpand [IsIrrefl α r] {a : α} (hacc : Acc r a) : Acc (CutExpand r) {a} := by
  induction' hacc with a h ih
  -- ⊢ Acc (CutExpand r) {a}
  refine' Acc.intro _ fun s ↦ _
  -- ⊢ CutExpand r s {a} → Acc (CutExpand r) s
  classical
  simp only [cutExpand_iff, mem_singleton]
  rintro ⟨t, a, hr, rfl, rfl⟩
  refine' acc_of_singleton fun a' ↦ _
  rw [erase_singleton, zero_add]
  exact ih a' ∘ hr a'
#align acc.cut_expand Acc.cutExpand
```

It looks like the `classical` tactic caused goal comments to stop being printed, not sure if this is intended behavior for certain tactics.

2) In the documentation for `declaration_types` (and `premises`) it sounds like you can focus them to specific files: "For each declaration imported in the target file (e.g. Mathlib), print the name and type of the declaration." Here I took the "(e.g. Mathlib)" to mean I could put specific files in the arguments. However when I run `lake exe declaration_types Mathlib.Logic.Hydra` it seems to be printing all of mathlib, or at least more than just the Hydra file. Is there supposed to be a way to focus these commands to specific files?

3.) Finally, a very small point it looks like there is a typo in the https://github.com/semorrison/lean-training-data#training_data section where it says `lake exe export_infotree Mathlib.Logic.Hydra` instead of `lake exe training_data Mathlib.Logic.Hydra`.

Thanks for making this tool!
